US05516774
N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-3-chlorophenyl]-3-fluoro-2-methylbenzamide
To a solution of 1.50 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 25 ml of methylene chloride is added 1.23 g of N,N-diisopropylethylamine. While cooling in an ice bath, a solution of 3.08 g of 4-[(2-methyl-5-fluorobenzoyl)amino]-2-chlorobenzoyl chloride in 50 ml of methylene chloride is added. The reaction mixture becomes homogeneous and is stirred at room temperature for 18 hours. Water is added and the separated organic layer washed with saturated sodium bicarbonate, dried with Na2SO4 and passed through a short pad of hydrous magnesium silicate two times. The methylene chloride is removed in vacuo to give 3.81 g of a glass. A sample is crystallized from ethyl acetate to give crystalline solid, m.p. 200°-205° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.50 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 1.23 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[(2-methyl-5-fluorobenzoyl)amino]-2-chlorobenzoyl chloride | 3.08 g | CC1=C(C(=O)NC2=CC(=C(C(=O)Cl)C=C2)Cl)C=C(C=C1)F | C15H10Cl2FNO2
reactant | Water | O | H2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-3-chlorophenyl]-3-fluoro-2-methylbenzamide | 3.81 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=C(C=C(C=C1)NC(C1=C(C(=CC=C1)F)C)=O)Cl | C27H21ClFN3O2
